US07951807B2
a) 4-(4-Propyl-piperazine-1-yl)-piperidine-1-carboxylic acid-tert-butylester
42 g (0.50 mol) sodium acetate were added in portions to 73 g (0.25 mol) N-propylpiperazine dihydrobromide in 1 l methanol at 40° C. Subsequently, this was cooled to 0° C. and 50 g (0.25 mol) Boc-4-piperidon and 16 g (0.25 mol) sodium cyanoborohydride, in portions, were added, one after the other. Everything was then stirred at room temperature for 16 h. The reaction mixture was concentrated in a vacuum and then distributed between ethyl acetate and 1M NaOH. The organic phase was separated, washed with 1M NaOH, H2O and conc. NaCl solution, dried and concentrated in a vacuum. The residue was chromatographically purified over silica gel (mobile phase: MeOH/CH2Cl2=1/15). 43.6 g of the product were obtained.

reactant | sodium acetate | 0.50 mol, 42 g | C(C)(=O)[O-].[Na+]
reactant | N-propylpiperazine dihydrobromide | 0.25 mol, 73 g | Br.Br.C(CC)N1CCNCC1
reactant | Boc-4-piperidon | 0.25 mol, 50 g | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
reactant | sodium cyanoborohydride | 0.25 mol, 16 g | C(#N)[BH3-].[Na+]
solvent | methanol | 1 l | CO | CH4O
product | 4-(4-Propyl-piperazine-1-yl)-piperidine-1-carboxylic acid-tert-butylester | 43.6 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1CCN(CC1)CCC | C17H33N3O2
